US05902803
N-Methyl(1-oxoindan-5-yl)acetamide can be obtained in the following way: 16 g of N,N'-carbonyldiimidazole are added portionwise to a solution of 12.5 g of (1-oxoindan-5-yl)acetic acid in 250 ml of tetrahydrofuran maintained at 0° C. After reacting for 1 hour at a temperature in the region of 20° C., the solution is cooled to -10° C. and a stream of monomethylamine is passed into the mixture for 5 minutes. After returning to a temperature in the region of 20° C., the reaction mixture is evaporated under reduced pressure. The residue is taken up in 1 liter of dichloromethane. The organic phase is washed three times with 500 ml of distilled water, dried over magnesium sulphate and then evaporated. The resulting brown solid is purified by flash chromatography on silica (eluent dichloromethane/methanol (96/4 by volume)). 9 g of N-methyl(1-oxoindan-5-yl)acetamide are thus obtained in the form of a white solid melting at 169° C. (1H NMR spectrum in CDCl3, T=300K, δ in ppm: 2.69 (2H, m, COCH2), 2.80 (3H, d, NCH3), 3.14 (2H, t, J=5 Hz, CH2), 3.65 (2H, s, CH2), 5.47 (1H, broad s, NH), 7.26 (1H, d, J=7 Hz, arom. CH), 7.42 (1H, s, arom. CH), 7.74 (1H, d, J=7 Hz, arom. CH)).

reactant | (1-oxoindan-5-yl)acetic acid | 12.5 g | O=C1CCC2=CC(=CC=C12)CC(=O)O | C11H10O3
reactant | monomethylamine | CN | CH5N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | N-methyl(1-oxoindan-5-yl)acetamide | 9 g | CNC(CC=1C=C2CCC(C2=CC1)=O)=O | C12H13NO2
